US04672106
In the same manner as described in Example 1-(2), 1.50 g of Nα -(t-butyloxycarbonyl-alanyl-D-isoglutaminyl)-lysine and 1.01 g of an N-hydroxy-5-norbornene-2,3-dicarboxyimide active ester of butyric acid were reacted to obtain 1.57 g of Nα -(t-butyloxycarbonyl-alanyl-D-isoglutaminyl)-Nε -butyryl-lysine; melting point: 84°-87° C. (decomp.); [α]D25 -12.2° (c 0.9, methanol).

reactant | Nα -(t-butyloxycarbonyl-alanyl-D-isoglutaminyl)-lysine | 1.50 g | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)N[C@H](CCC(=O)N[C@@H](CCCCN)C(=O)O)C(N)=O | C19H35N5O7
reactant | butyric acid | C(CCC)(=O)O | C4H8O2
product | Nα -(t-butyloxycarbonyl-alanyl-D-isoglutaminyl)-Nε -butyryl-lysine | 1.57 g | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)N[C@H](CCC(=O)N[C@@H](CCCCNC(CCC)=O)C(=O)O)C(N)=O | C23H41N5O8
